US07402598B2
ii) 3-(3-{[7-(Benzyl{(2R)-2-[8-(benzyloxy)-2-oxo-1,2-dihydroquinolin-5-yl]-2-hydroxyethyl}amino)heptyl]oxy}propyl)benzenesulfonamide
5-[(1R)-2-(Benzylamino)-1-hydroxyethyl]-8-(benzyloxy)quinolin-2(1H)-one (48 mg) was dissolved in acetonitrile (2 ml). N,N-diisopropylethylamine (0.042 ml), and 3-{3-[(7-bromoheptyl)oxy]propyl}benzenesulfonamide (43 mg) were added to the solution, which was heated at reflux for 72 h under nitrogen. The mixture was diluted with water and extracted with ethyl acetate. The organic extracts were combined, dried (MgSO4) and evaporated in vacuo. The residue was purified on a silica SPE cartridge eluting with ethyl acetate-cyclohexane mixtures to give the title compound (36 mg). LCMS RT=2.76 min

reactant | 5-[(1R)-2-(Benzylamino)-1-hydroxyethyl]-8-(benzyloxy)quinolin-2(1H)-one | 48 mg | C(C1=CC=CC=C1)NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C25H24N2O3
reactant | N,N-diisopropylethylamine | 0.042 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-{3-[(7-bromoheptyl)oxy]propyl}benzenesulfonamide | 43 mg | BrCCCCCCCOCCCC=1C=C(C=CC1)S(=O)(=O)N | C16H26BrNO3S
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-(3-{[7-(Benzyl{(2R)-2-[8-(benzyloxy)-2-oxo-1,2-dihydroquinolin-5-yl]-2-hydroxyethyl}amino)heptyl]oxy}propyl)benzenesulfonamide | 36 mg | C(C1=CC=CC=C1)N(CCCCCCCOCCCC=1C=C(C=CC1)S(=O)(=O)N)C[C@H](O)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C41H49N3O6S
